US05616726
Preparation of lanthanum/(R)-1,1'-bi-2-naphthol complex solution
To a solution of 258 mg (0.90 mmol) of (R)-1,1'-bi-2-naphthol in 4.5 ml of THF Was added dropwise 0.56 ml (0.90 mmol) of a 1.6N n-butyllithium solution in hexane, at 0° C. in an argon atmosphere. After completion of the dropping, the temperature was raised to room temperature, 95 mg (0.30 mmol) of powdery lanthanum isopropoxide was added, and the mixture was stirred at room temperature for 15 hours. The insoluble matter was allowed to precipitate and the supernatant was submitted, as a lanthanum/(R)-1,1'-bi-2-naphthol complex solution (0.05 mol/l), to the reaction proper.

reactant | (R)-1,1'-bi-2-naphthol | 0.90 mmol, 258 mg | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
reactant | n-butyllithium | 1.6N | C(CCC)[Li]
reactant | lanthanum isopropoxide | 0.30 mmol, 95 mg | CC([O-])C.[La+3].CC([O-])C.CC([O-])C
solvent | THF | 4.5 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | lanthanum (R)-1,1'-bi-2-naphthol | [La].C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | InChI=1S/C20H14O2.La/c21-17-11-9-13-5-1-3-7-15(13)19(17)20-16-8-4-2-6-14(16)10-12-18(20)22;/h1-12,21-22H;
